US08461134B2
To a solution of 1-bromo-2-(2-methoxyethyl)-4-nitrobenzene (7.8 g, 30 mmol) and Cs2CO3 (14.66 g, 45 mmol) in DMF (100 mL) was added BnSH (4.1 g, 33 mmol) slowly, followed by stirring at room temperature for three hours. Water was added, the precipitate was filtered, washed by water and petroleum to give benzyl(2-(2-methoxyethyl)-4-nitrophenyl)sulfane (8 g, yield 88%). 1H NMR: 400 MHz CDCl3 δ 8.05 (s, 1H), 8.01-7.98 (m, 1H), 7.38-7.28 (m, 6H), 4.23 (s, 2H), 3.64-3.61 (m, 2H), 3.34 (s, 3H), 3.03-2.99 (m, 2H).

reactant | 1-bromo-2-(2-methoxyethyl)-4-nitrobenzene | 30 mmol, 7.8 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])CCOC | C9H10BrNO3
reactant | Cs2CO3 | 45 mmol, 14.66 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | BnSH | 33 mmol, 4.1 g | C(C1=CC=CC=C1)S | C7H8S
reactant | Water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | benzyl(2-(2-methoxyethyl)-4-nitrophenyl)sulfane | 8 g, yield 88% | C(C1=CC=CC=C1)SC1=C(C=C(C=C1)[N+](=O)[O-])CCOC | C16H17NO3S
